US05051422
4-(3,5-Dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-piperazinecarboxamide
In a manner similar to Preparation 1, react N-(3,5-dichlorophenyl)-N'-[(3,4-dimethoxyphenyl)methyl]-1,2-ethanediamine with 2,3-dibromopropanamide to obtain the title compound.

reactant | N-(3,5-dichlorophenyl)-N'-[(3,4-dimethoxyphenyl)methyl]-1,2-ethanediamine | ClC=1C=C(C=C(C1)Cl)NCCNCC1=CC(=C(C=C1)OC)OC | C17H20Cl2N2O2
reactant | 2,3-dibromopropanamide | BrC(C(=O)N)CBr | C3H5Br2NO
product | 4-(3,5-Dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-piperazinecarboxamide | ClC=1C=C(C=C(C1)Cl)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)C(=O)N | C20H23Cl2N3O3
